US07968570B2
A mixture of 4-bromo-2-bromomethyl-6-methyl-benzoic acid methyl ester (1.61 g, 5.0 mmol), 4-trifluoromethoxy-benzylamine (0.916 mL, 6.0 mmol), and K2CO3 (1.24 g, 9.0 mmol) in toluene (10 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 5-bromo-7-methyl-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one (1.21 g, 60%). GC-MS: m/z 399 (M)+, 316 (M−83)+.

reactant | 4-bromo-2-bromomethyl-6-methyl-benzoic acid methyl ester | 5.0 mmol, 1.61 g | COC(C1=C(C=C(C=C1C)Br)CBr)=O | C10H10Br2O2
reactant | 4-trifluoromethoxy-benzylamine | 6.0 mmol, 0.916 mL | FC(OC1=CC=C(CN)C=C1)(F)F | C8H8F3NO
reactant | K2CO3 | 9.0 mmol, 1.24 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 5-bromo-7-methyl-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 1.21 g, 60% | BrC=1C=C2CN(C(C2=C(C1)C)=O)CC1=CC=C(C=C1)OC(F)(F)F | C17H13BrF3NO2
